US09227918B2
To a solution of 1.90 g (10.6 mmol) of methyl 3-(2-aminoethyl)benzoate in 106 mL of 1 N NaOH and 50 mL of dioxane was added 3.47 g (15.9 mmol) of BOC2O in 10 mL of dioxane at 22° C. The solution was stirred for 2 h at 22° C. and then acidified to pH 2 by addition of 1 N HCl. The aqueous/organic mixture was saturated by stirring with solid NaCl and then extracted with DCM (5×100 mL). The combined organic extracts were dried (Na2SO4) and evaporated to give 3-(2-(tert-butoxycarbonylamino)ethyl)benzoic acid as a foamy white solid which was used subsequently without purification.

reactant | methyl 3-(2-aminoethyl)benzoate | 10.6 mmol, 1.90 g | NCCC=1C=C(C(=O)OC)C=CC1 | C10H13NO2
reactant | BOC2O | 15.9 mmol, 3.47 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | NaOH | 1 N, 106 mL | [OH-].[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(2-(tert-butoxycarbonylamino)ethyl)benzoic acid | C(C)(C)(C)OC(=O)NCCC=1C=C(C(=O)O)C=CC1 | C14H19NO4
